US07501411B2
Step 2: 5-{8-[4-(2-Oxo-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyrazin-5-yl}-2,3-dihydro-isoindol-1-one
A solution of 3-oxo-4-{4-[5-(1-oxo-2,3-dihydro-1H-isoindol-5-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester (59 mg, 0.1 mmol) in 3:1 DCM:TFA (1.2 mL) is stirred at room temperature for 1 hour. The reaction mixture is diluted with DCM and basified with sat. NaHCO3. The aqueous layer is extracted with DCM (3×) and the organic layers are combined, dried over MgSO4, filtered and concentrated under vacuum to afford the title compound as a yellow solid (38 mg, 86%). 1H-NMR (400 MHz, d6-DMSO) δ(ppm) 3.07 (2H, m), 3.44 (2H, s), 3.64 (2H, m), 4.50 (2H, s), 7.32 (2H, d), 7.83 (1H, d), 8.04-8.10 (4H, m), 8.22 (1H, s), 8.70 (1H, br s), 8.74 (1H, s), 10.25 (1H, s). LCMS: Rt 7.17 min (93.7%), m/z (APCI) 441 (M+H)+.

reactant | 3-oxo-4-{4-[5-(1-oxo-2,3-dihydro-1H-isoindol-5-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.1 mmol, 59 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=CC=C(C=C1)NC=1C=2N(C(=CN1)C=1C=C3CNC(C3=CC1)=O)N=CN2)=O | C28H28N8O4
reactant | TFA | 1.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 5-{8-[4-(2-Oxo-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyrazin-5-yl}-2,3-dihydro-isoindol-1-one | 38 mg, 86% | O=C1N(CCNC1)C1=CC=C(C=C1)NC=1C=2N(C(=CN1)C=1C=C3CNC(C3=CC1)=O)N=CN2 | C23H20N8O2
